US08304556B2
B-10a) 5-(4-Bromo-phenyl)-3,4-dihydro-2H-pyrrole
A mixture of 4′-bromo-4-chlorobutyrophenone (20.0 g, 76.5 mmol), sodium azide (7.46 g, 115 mmol) and sodium iodide (344 mg, 2.29 mmol) is stirred overnight at 55° C. The reaction mixture is poured on water and extracted with DCM. The organic phases are dried over MgSO4 and concentrated in vacuo. The residue is dissolved in 150 mL cyclohexane, triphenylphosphine (20.1 g, 76.5 mmol) is added and the reaction mixture is stirred overnight at RT. The reaction mixture is filtered and the solids are washed with cold diethyl ether. The filtrate is concentrated in vacuo, water is added and the mixture is extracted with DCM. The combined organic phases are washed with water and brine, dried over MgSO4 and concentrated in vacuo. The residue is treated with a mixture diethyl ether/cyclohexane (1/1, v/v), filtered and the filtrate is concentrated in vacuo. Yield: 15.6 g.

reactant | 4′-bromo-4-chlorobutyrophenone | 76.5 mmol, 20.0 g | BrC1=CC=C(C=C1)C(CCCCl)=O | C10H10BrClO
reactant | sodium azide | 115 mmol, 7.46 g | [N-]=[N+]=[N-].[Na+]
reactant | sodium iodide | 2.29 mmol, 344 mg | [I-].[Na+]
reactant | triphenylphosphine | 76.5 mmol, 20.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 5-(4-Bromo-phenyl)-3,4-dihydro-2H-pyrrole | BrC1=CC=C(C=C1)C=1CCCN1 | C10H10BrN
